US07888351B2
A) Isopropylsulfanyl-acetic acid benzyl ester
To benzyl bromoacetate (100 mg, 0.437 mmol) in dimethyl formamide (2 mL) is added triethylamine (67 uL, 0.481 mmol) and 2-propanethiol (41 uL, 0.437 mmol). After stirring at rt during 2 h, the solvent is evaporated, the residue is treated with dichloromethane and water. The organic phase is dried and evaporated to give a crude compound before purification by preparative HPLC (Column Waters C18 ODB 5 μm 19×50, Gradient: 0-2.5 min 5% ACN, 2.5-12.5 min 5-100% ACN, 12.5-15 min 100% ACN) to yield the title compound.

reactant | benzyl bromoacetate | 0.437 mmol, 100 mg | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | triethylamine | 0.481 mmol, 67 uL | C(C)N(CC)CC | C6H15N
reactant | 2-propanethiol | 0.437 mmol, 41 uL | CC(C)S | C3H8S
solvent | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
product | Isopropylsulfanyl-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CSC(C)C)=O | C12H16O2S
